US07786132B2
Perchloric acid (0.025 mL, 0.28 mmol) was added to a rapidly stirring suspension of N-bromosuccinimide (5.06 g, 28.4 mmol) and 2-(thiophen-3-yl)acetonitrile (3.50 g, 28.4 mmol) in carbon tetrachloride (15 mL). After 4 h at room temperature, the reaction mixture was treated with solid NaHCO3 (100 mg, 1.2 mmol), then filtered and concentrated. The residue was purified by chromatography, eluting with a gradient of 2-15% EtOAc/hexanes to afford pure 2-(2-bromothiophen-3-yl)acetonitrile as a pale green oil (2.44 g, 12.1 mmol, 43% yield). MS (M+H)+ 202/204.

reactant | N-bromosuccinimide | 28.4 mmol, 5.06 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-(thiophen-3-yl)acetonitrile | 28.4 mmol, 3.50 g | S1C=C(C=C1)CC#N | C6H5NS
solvent | carbon tetrachloride | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | Perchloric acid | 0.28 mmol, 0.025 mL | Cl(=O)(=O)(=O)O | ClHO4
catalyst | NaHCO3 | 1.2 mmol, 100 mg | C(=O)(O)[O-].[Na+]
product | 2-(2-bromothiophen-3-yl)acetonitrile | 12.1 mmol, 2.44 g, 43% yield | BrC=1SC=CC1CC#N | C6H4BrNS
